US07592477B2
Step a) Formation of ethyl{(4-{[(4-octylphenyl)amino]carbonyl}benzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetate
The same procedure as employed in the preparation of Example 10 (step a) but using 4-({[ethoxy(oxo)acetyl][4-(trifluoromethyl)benzyl]amino}methyl)benzoic acid and 4-octylaniline gave the title compound as a colorless oil (22%). 1H NMR (CDCl3, 300 MHz) δ 7.89-6.60 (m, 12H), 4.48 (s, 2H), 4.44-4.21 (m, 4H), 2.65-2.36 (m, 2H), 1.68-1.40 (m, 3H), 1.38-1.08 (m, 13H), 0.81 (t, J=6.9 Hz, 3H). M+(LC/MS(ESI)): 597.7. HPLC (Condition A), Rt: 6.75 min (HPLC purity: 98.9%).

reactant | 4-({[ethoxy(oxo)acetyl][4-(trifluoromethyl)benzyl]amino}methyl)benzoic acid | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C(=O)O)C=C1)=O | C20H18F3NO5
reactant | 4-octylaniline | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
product | ethyl{(4-{[(4-octylphenyl)amino]carbonyl}benzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetate | 22% | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C(=O)NC1=CC=C(C=C1)CCCCCCCC)=O | C34H39F3N2O4
